US07902394B2
(c) Ethyl 3-(3,4-difluoro-5-{[(trifluoromethyl)sulfonyl]oxy}phenyl)propanoate
In a 2 L round bottom flask triethylamine (105 mL, 753 mmol) was added to a solution of compound ethyl 3-(3,4-difluoro-5-hydroxyphenyl)propanoate (86.9 g, 378 mmol) in CH2Cl2 (1000 mL) under N2 and the reaction mixture cooled to 0° C. Trifluoromethanesulfonic anhydride (70 mL, 416 mmol) was added dropwise over 50 min. The reaction was allowed to warm slowly to room temperature overnight and stir for 3 days. The reaction mixture was washed three times with brine. The organic layer was dried over Na2SO4, filtered, and concentrated. Column chromatography (0-25% ethyl acetate:hexane and 0-100% CH2Cl2:hexane) afforded the desired product (93.8 g, 69%).

reactant | triethylamine | 753 mmol, 105 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl 3-(3,4-difluoro-5-hydroxyphenyl)propanoate | 378 mmol, 86.9 g | FC=1C=C(C=C(C1F)O)CCC(=O)OCC | C11H12F2O3
reactant | Trifluoromethanesulfonic anhydride | 416 mmol, 70 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 1000 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 3-(3,4-difluoro-5-{[(trifluoromethyl)sulfonyl]oxy}phenyl)propanoate | 93.8 g, 69% | FC=1C=C(C=C(C1F)OS(=O)(=O)C(F)(F)F)CCC(=O)OCC | C12H11F5O5S
